US07067517B2
3,4-Dihydro-2H-quinoline-1-carboxylic acid 3-benzyl-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-benzyl-7-hydroxy-4-methyl-2H-chromen-2-one and 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide. HPLC-MS m/z=426 (M+1), Rt: 5.34 min.

reactant | 3-benzyl-7-hydroxy-4-methyl-2H-chromen-2-one | C(C1=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1C)O)=O | C17H14O3
reactant | 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].N1(CCCC2=CC=CC=C12)C(=O)N1C=[N+](C=C1)C
product | 3,4-Dihydro-2H-quinoline-1-carboxylic acid 3-benzyl-4-methyl-2-oxo-2H-chromen-7-yl ester | C(C1=CC=CC=C1)C=1C(OC2=CC(=CC=C2C1C)OC(=O)N1CCCC2=CC=CC=C12)=O | C27H23NO4
